US06306840B1
To a solution of t-Butyl 4-amino-3-methoxyphenylacetate (0.123 g, 0.52 mmol) in methylene chloride (2.0 mL) was added phenyl isocyanate (60 μL, 0.55 mmol). The reaction was stirred for 45 min then concentrated to afford t-butyl 3-methoxy-4-phenylureidophenylacetate (0.190 g, 100%) as a pale yellow foam: 1H NMR (CDCl3, 300 MHz, ppm) 8.00 (d,11 Hz, 1H) 7.65-6.94 (m, 7H), 6.80 (d, 9.0 Hz, 1H), 6.74 (s, 1H), 3.68 (s, 3H), 3.45 (s, 2H), 1.44 (s, 9H).

reactant | t-Butyl 4-amino-3-methoxyphenylacetate | 0.52 mmol, 0.123 g | NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)OC | C13H19NO3
reactant | phenyl isocyanate | 0.55 mmol, 60 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | t-butyl 3-methoxy-4-phenylureidophenylacetate | 0.190 g, 100% | COC=1C=C(C=CC1NC(=O)NC1=CC=CC=C1)CC(=O)OC(C)(C)C | C20H24N2O4
